US07741327B2
To a stirred mixture of 3-hydroxy-benzonitrile (3.30 g, 0.028 mol) and methyl-2-butynoate (5.40 g, 0.055 mol) in tetrahydrofuran (50 mL) was added 1,8-diazabicyclo[5.4.0]undec-7-ene (4.20 g, 0.028 mol) slowly. After addition was complete the mixture was stirred at reflux for 6 h. Upon completion of the reaction the tetrahydrofuran was removed in vacuo and the residue was diluted in diethyl ether and washed first with 1N aqueous hydrochloric acid, then 10% aqueous sodium hydroxide solution, a saturated sodium chloride solution and dried over magnesium sulfate. The mixture was filtered and evaporated and the residue dried under high vacuum which afforded (E)-3-(3-cyano-phenoxy)-but-2-enoic acid methyl ester as an oil (4.60 g, 76%) and used without further purification.

reactant | 3-hydroxy-benzonitrile | 0.028 mol, 3.30 g | OC=1C=C(C#N)C=CC1 | C7H5NO
reactant | methyl-2-butynoate | 0.055 mol, 5.40 g | COC(C#CC)=O | C5H6O2
reactant | 1,8-diazabicyclo[5.4.0]undec-7-ene | 0.028 mol, 4.20 g | N12CCCCCC2=NCCC1 | C9H16N2
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
product | (E)-3-(3-cyano-phenoxy)-but-2-enoic acid methyl ester | 4.60 g, 76% | COC(\C=C(/C)\OC1=CC(=CC=C1)C#N)=O | C12H11NO3
